US07935722B2
5-Bromo-2-(2,5-dimethylpyrrol-1-yl)pyridine
Prepare using procedures essentially as described for 5-bromo-2-(2,5-dimethylpyrrol-1-yl)thiazole (Preparation 25) starting with 2-amino-5-bromopyridine. MS (ES): m/z 252 (M+1).

reactant | 5-bromo-2-(2,5-dimethylpyrrol-1-yl)thiazole | BrC1=CN=C(S1)N1C(=CC=C1C)C | C9H9BrN2S
reactant | 2-amino-5-bromopyridine | NC1=NC=C(C=C1)Br | C5H5BrN2
product | 5-Bromo-2-(2,5-dimethylpyrrol-1-yl)pyridine | BrC=1C=CC(=NC1)N1C(=CC=C1C)C | C11H11BrN2
